US07939539B2
2-Amino-4-chlorobenzoic acid (250 mg, 1 eq.) and N-benzylacetamide (261 mg, 1.2 eq.) were dissolved in phosphorus oxychloride (2 ml). The reaction was placed in the microwave for 10 minutes at 150° C. The reaction was quenched by pouring the mixture into ice. The crude product was extracted into ethyl acetate. The ethyl acetate layer was washed with water, 10% aqueous sodium hydroxide, dried with magnesium sulfate, filtered, and concentrated to yield 3-benzyl-7-chloro-2-methylquinazolin-4 (3H)-one as an orange solid.

reactant | 2-Amino-4-chlorobenzoic acid | 250 mg, 1 eq. | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | N-benzylacetamide | 261 mg, 1.2 eq. | C(C1=CC=CC=C1)NC(C)=O | C9H11NO
solvent | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-benzyl-7-chloro-2-methylquinazolin-4 (3H)-one | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C | C16H13ClN2O
